US08957093B2
Step 2: (S)-tert-butyl 4′-((5-((1-(3-isopropylphenyl)ethyl)carbamoyl)-2,3-dimethyl-1H-indol-1-yl)methyl)-[1,1′-biphenyl]-2-carboxylate
A solution of (S)-tert-butyl 4′-((2,3-dimethyl-5-((1-(3-(prop-1-en-2-yl)phenyl)ethyl)carbamoyl)-1H-indol-1-yl)methyl)-[1,1′-biphenyl]-2-carboxylate (0.13 mmol, 1 equiv.) in ethanol (5 mL) was degassed with argon. A hint of Pd/C 10% was added to the solution. The suspension was stirred at rt for 5 h under H2 bubbling. The resulting mixture was then filtered and concentrated. The obtained oil was used without further purification. ESI-MS (m/z): 601 [M+H]+.

reactant | (S)-tert-butyl 4′-((2,3-dimethyl-5-((1-(3-(prop-1-en-2-yl)phenyl)ethyl)carbamoyl)-1H-indol-1-yl)methyl)-[1,1′-biphenyl]-2-carboxylate | 0.13 mmol, 1 equiv. | CC=1N(C2=CC=C(C=C2C1C)C(N[C@@H](C)C1=CC(=CC=C1)C(=C)C)=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC(C)(C)C | C40H42N2O3
solvent | ethanol | 5 mL | C(C)O | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | (S)-tert-butyl 4′-((5-((1-(3-isopropylphenyl)ethyl)carbamoyl)-2,3-dimethyl-1H-indol-1-yl)methyl)-[1,1′-biphenyl]-2-carboxylate | C(C)(C)C=1C=C(C=CC1)[C@H](C)NC(=O)C=1C=C2C(=C(N(C2=CC1)CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC(C)(C)C)C)C | C40H44N2O3
